US04772600
N-[3-[(5-Methyl-2-thienylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester
Under a nitrogen atmosphere, triethylamine (31.41 g, 0.311 mole) and 5-methyl-2-thiophenecarbonyl chloride (50 g, 0.311 mole) were added simultaneously, dropwise, to a stirred and chilled solution of freshly prepared N-[[3-amino]-2-pyridinyl]glycine ethyl ester (0.296 mole) by palladium/carbon reduction of N-[[3-nitro]-2-pyridinyl]glycine ethyl ester (66.98 g, 0.296 mole) in dry tetrahydrofuran (~1 liter). The reaction mixture was stirred at room temperature overnight and the solvent was evaporated under reduced pressure. The residue was partitioned between water and ethyl acetate, the layers separated and the aqueous layer was again extracted with ethyl acetate. The combined organic layers were washed twice with a 5% potassium hydroxide solution, twice with a saturated sodium bicarbonate solution, twice with water, dried over magnesium sulfate, treated with charcoal, filtered, and evaporated under reduced pressure to give 95.3 g of a tan solid in quantitative yield. A 1.5-g portion of the solid was dissolved in hot absolute ethanol, filtered while hot, and brought to its cloud point by addition of water. Cooling to room temperature gave a solid which was collected by filtration, rinsed with water, and dried under high vacuum at room temperature overnight to give 1.11 g of title compound, mp 112°-115° C.

reactant | triethylamine | 0.311 mole, 31.41 g | C(C)N(CC)CC | C6H15N
reactant | 5-methyl-2-thiophenecarbonyl chloride | 0.311 mole, 50 g | CC1=CC=C(S1)C(=O)Cl | C6H5ClOS
reactant | N-[[3-amino]-2-pyridinyl]glycine ethyl ester | 0.296 mole | C(C)OC(CNC1=NC=CC=C1N)=O | C9H13N3O2
reactant | N-[[3-nitro]-2-pyridinyl]glycine ethyl ester | 0.296 mole, 66.98 g | C(C)OC(CNC1=NC=CC=C1[N+](=O)[O-])=O | C9H11N3O4
solvent | tetrahydrofuran | ~1 liter | O1CCCC1 | C4H8O
catalyst | palladium/carbon | [Pd] | Pd
product | N-[3-[(5-Methyl-2-thienylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester | 95.3 g, quantitative yield | C(C)OC(CNC1=NC=CC=C1NC(=O)C=1SC(=CC1)C)=O | C15H17N3O3S
